US06329402B1
5,6,7,8-Tetrahydro-5,5,8,8-tetramethylquinoxaline-2-carbaldehyde
A solution of 7.7 9 of 5,6,7,8- tetrahydro-5,5,8,8-tetramethylquinoxaline -2-methanol in 120 ml of dichioromethane was then added dropwise to the reaction mixture and the resulting mixture was stirred for 15 minutes. To the reaction mixture were added with 35.1 ml of triethylamine, followed by stirring for 5 minutes. After the reaction mixture was raised to room temperature and stirred for 15 minutes, water was added and the resulting mixture was extracted with dichloromethane. The organic layer was successively washed with water and saturated saline, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue so obtained was subjected to chromatography on a silica gel column (developing solvent: 10% ethyl acetate/n-hexane), whereby 6.7 g of the title compound were obtained as a pale yellow solid.

reactant | 5,6,7,8- tetrahydro-5,5,8,8-tetramethylquinoxaline -2-methanol | CC1(C=2N=CC(=NC2C(CC1)(C)C)CO)C | C13H20N2O
reactant | triethylamine | 35.1 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
reactant | ethyl acetate n-hexane | C(C)(=O)OCC.CCCCCC
solvent | dichioromethane | 120 ml | ClCCl | CH2Cl2
product | 5,6,7,8-Tetrahydro-5,5,8,8-tetramethylquinoxaline-2-carbaldehyde | 6.7 g | CC1(C=2N=CC(=NC2C(CC1)(C)C)C=O)C | C13H18N2O
